US07625932B2
Preparation of 2-(1-Methylamino-ethylidene)-malononitrile
Add methylamine (1120 mL, 2.6 Eq.) to 2-(1-ethoxy-ethylidene)-malononitrile (115 g, 0.84 mol) in ether dropwise while stirring at room temperature under a nitrogen atmosphere. Stir at this temperature for 2 hours and then concentrate under reduced vacuum. Triturate the resulting solid in ethyl acetate (400 mL) and filter to produce 102 g of the title compound as a tan solid. Mass spectrum (m/e): 122.0 (M*+1): (Bruker 300)

reactant | methylamine | 1120 mL, 2.6 Eq. | CN | CH5N
reactant | 2-(1-ethoxy-ethylidene)-malononitrile | 0.84 mol, 115 g | C(C)OC(C)=C(C#N)C#N | C7H8N2O
solvent | ether | CCOCC | C4H10O
product | 2-(1-Methylamino-ethylidene)-malononitrile | 102 g | CNC(C)=C(C#N)C#N | C6H7N3
